### PR TITLE
feat(ErdosProblems): 367

### LINKED ISSUE #695: Erdős PRoblem 367
### What is the conjecture
    
https://www.erdosproblems.com/367

  Let $B_2(n)$ be the 2-full part of $n$ (that is, $B_2(n)=n/n'$ where $n'$ is the product of all primes that divide $n$ exactly once). Is it true that, for every fixed $k\geq 1$,
$$\prod_{n\leq m<n+k}B_2(m) \ll n^{2+o(1)}?$$
Or perhaps even $\ll_k n^2$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by SproutSeeds**
Formalize the statement of **Erdos Problem 367** with:
- `B2` modeled as
  `n / (product of primes dividing n with exponent exactly one)`
- interval products `∏_{n ≤ m < n+k} B₂(m)`
- two main problem parts:
  - `erdos_367.parts.i`
  - `erdos_367.parts.ii`
- additional-text variants:
  - `erdos_367.variants.k_le_two`
  - `erdos_367.variants.higher_full_parts`

If preferred, I can split the `higher_full_parts` variant into a follow-up PR and keep this PR strictly to the two main parts plus the `k ≤ 2` variant.

### CODE REVIEW

**Comment by Smetalo** [comment]
Does this resolve #695?

File: FormalConjectures/ErdosProblems/367.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+noncomputable def B2 (n : ℕ) : ℕ :=
+  n / exactlyOncePrimeDivisorProduct n
+
+/-- Product `∏_{n ≤ m < n+k} B₂(m)`. -/
+noncomputable def intervalB2Product (n k : ℕ) : ℕ :=
+  (Finset.range k).prod (fun i => B2 (n + i))
+
+/-- Discrete formulation of a `n^(2+o(1))`-type upper bound with integer slack. -/
+def nearlyQuadraticBound (k : ℕ) : Prop :=
+  ∀ s : ℕ, 1 ≤ s → ∃ C : ℕ, ∀ n : ℕ, 1 ≤ n → intervalB2Product n k ≤ C * n ^ (2 + s)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/367.lean]: Here ideally one should use the Mathlib asymptotics notations

File: FormalConjectures/ErdosProblems/367.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+/--
+`B₂(n)` in the Erdős Problem 367 statement:
+`B₂(n) = n / n'`, where `n'` is the product of all primes dividing `n` exactly once.
+-/
+noncomputable def B2 (n : ℕ) : ℕ :=
+  n / exactlyOncePrimeDivisorProduct n
+
+/-- Product `∏_{n ≤ m < n+k} B₂(m)`. -/
+noncomputable def intervalB2Product (n k : ℕ) : ℕ :=
+  (Finset.range k).prod (fun i => B2 (n + i))
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/367.lean]: Are you sure these need to be noncomputable?

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR - a few comments

**Comment by SproutSeeds** [comment]
Thanks for the review. Addressed in `5df5580`:
- rewrote the growth conditions using Mathlib asymptotics notation,
- removed the unnecessary `noncomputable` markers from the factorization-based definitions.

Also, to clarify: yes, this PR is the scaffold for Erdős Problem 367, i.e. issue `#695`. I just have not added an auto-closing issue reference in the PR body yet.

File: FormalConjectures/ErdosProblems/367.lean [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+/-- Product of primes dividing `n` with exponent exactly one. -/
+def exactlyOncePrimeDivisorProduct (n : ℕ) : ℕ :=
+  (n.factorization.support.filter (fun p => n.factorization p = 1)).prod id
+
+/--
+`B₂(n)` in the Erdős Problem 367 statement:
+`B₂(n) = n / n'`, where `n'` is the product of all primes dividing `n` exactly once.
+-/
+def B2 (n : ℕ) : ℕ :=
+  n / exactlyOncePrimeDivisorProduct n
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
/-- `B r n` is the $r$-full part of $n$: the product of prime powers $p^a \| n$ with $a \geq r$. -/
def B (r n : ℕ) : ℕ :=
  ∏ i ∈ n.factorization.support.filter (r ≤ n.factorization ·), i ^ n.factorization i

/-- `B₂(n) = n / n'$, where $n'$ is the product of all primes that divide $n$ exactly once,
equivalently the $2$-full part of $n$. -/
abbrev B₂ (n : ℕ) : ℕ := B 2 n
```
How about defining the more general version first and then use this to define `B₂`?

File: FormalConjectures/ErdosProblems/367.lean [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- Product `∏_{n ≤ m < n+k} B₂(m)`. -/
+def intervalB2Product (n k : ℕ) : ℕ :=
+  (Finset.range k).prod (fun i => B2 (n + i))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
/-- Product $\prod_{n \leq m < n+k} B_r(m)$. -/
def intervalBProduct (r n k : ℕ) : ℕ :=
  ∏ i ∈ Finset.range k, B r (n + i)
```

and then generalise this definition

File: FormalConjectures/ErdosProblems/367.lean [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- Asymptotic formulation of an `n^(2+o(1))`-type upper bound. -/
+def nearlyQuadraticBound (k : ℕ) : Prop :=
+  ∃ e : ℕ → ℝ,
+    e =o[atTop] (1 : ℕ → ℝ) ∧
+    ∀ᶠ n in atTop, (intervalB2Product n k : ℝ) ≤ (n : ℝ) ^ (2 + e n)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
    ∀ᶠ n in atTop, (intervalBProduct 2 n k : ℝ) ≤ (n : ℝ) ^ (2 + e n)
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- The stronger variant `≪_k n^2`. -/
+def quadraticBound (k : ℕ) : Prop :=
+  (fun n ↦ (intervalB2Product n k : ℝ)) =O[atTop] fun n ↦ (n : ℝ) ^ (2 : ℝ)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
/-- The stronger variant $\ll_k n^2$. -/
def quadraticBound (k : ℕ) : Prop :=
  (fun n ↦ (intervalBProduct 2 n k : ℝ)) =O[atTop] fun n ↦ (n : ℝ) ^ (2 : ℝ)
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+
+/--
+For fixed `k ≥ 1`, is `∏_{n ≤ m < n+k} B₂(m) ≪ n^(2+o(1))`?
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean:41]:
```suggestion
/--
Let $B_2(n)$ be the $2$-full part of $n$. Is it true that, for every fixed $k \geq 1$,
$\prod_{n \leq m < n+k} B_2(m) \ll n^{2+o(1)}$?
-/
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 8]
```diff
@@ -0,0 +1,103 @@
...
+@[category research open, AMS 11]
+theorem erdos_367.parts.i : answer(sorry) ↔ ∀ k : ℕ, 1 ≤ k → nearlyQuadraticBound k := by
+  sorry
+
+/--
+Or perhaps even `∏_{n ≤ m < n+k} B₂(m) ≪_k n^2`?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
Or perhaps even $\prod_{n \leq m < n+k} B_2(m) \ll_k n^2$?

```

File: FormalConjectures/ErdosProblems/367.lean [hunk 9]
```diff
@@ -0,0 +1,103 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_367.parts.ii : answer(sorry) ↔ ∀ k : ℕ, 1 ≤ k → quadraticBound k := by
+  sorry
+
+/--
+The page notes the easy range `k ≤ 2`; this variant captures that solved subregime.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
van Doorn notes that for $k \leq 2$ we trivially have
$\prod_{n \leq m < n+k} B_2(m) \ll n^2$.
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 10]
```diff
@@ -0,0 +1,103 @@
...
+def brRatioUnbounded (r k : ℕ) : Prop :=
+  ∀ A : ℕ, ∃ n : ℕ, 1 ≤ n ∧ A * n ≤ intervalBrProduct r n k
+
+/--
+Variant question from the additional text: for fixed `r, k ≥ 2`, does there exist `ε > 0`
+with unbounded `limsup` behavior for `∏ B_r(m) / n^(1+ε)`?
+-/
+@[category research open, AMS 11]
+theorem erdos_367.variants.higher_full_parts : answer(sorry) ↔
+    ∀ r k : ℕ, 3 ≤ r → 2 ≤ k → brRatioUnbounded r k := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
    ∀ r k : ℕ, 2 ≤ r → 2 ≤ k → brRatioUnbounded r k := by
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 11]
```diff
@@ -0,0 +1,103 @@
...
+theorem erdos_367.parts.ii : answer(sorry) ↔ ∀ k : ℕ, 1 ≤ k → quadraticBound k := by
+  sorry
+
+/--
+The page notes the easy range `k ≤ 2`; this variant captures that solved subregime.
+-/
+@[category research solved, AMS 11]
+theorem erdos_367.variants.k_le_two : ∀ k : ℕ, k ≤ 2 → quadraticBound k := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean:70]:
```suggestion

/--
van Doorn also notes that the quadratic bound fails for all $k \geq 3$, and in fact
$\prod_{n \leq m < n+3} B_2(m) \gg n^2 \log n$ infinitely often.
-/
@[category research solved, AMS 11]
theorem erdos_367.variants.k_ge_three_lower :
    ∃ c > (0 : ℝ), ∀ᶠ (n : ℕ) in atTop,
      c * ((n : ℝ) ^ 2 * Real.log (n : ℝ)) ≤ (intervalBProduct 2 n 3 : ℝ) := by
  sorry

```

File: FormalConjectures/ErdosProblems/367.lean [hunk 12]
```diff
@@ -0,0 +1,103 @@
...
+/-- `B_r(n)`: product of prime powers `p^a ‖ n` with `a ≥ r`. -/
+def Br (r n : ℕ) : ℕ :=
+  (n.factorization.support.filter (fun p => r ≤ n.factorization p)).prod
+    (fun p => p ^ (n.factorization p))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion

```

File: FormalConjectures/ErdosProblems/367.lean [hunk 13]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- Product `∏_{n ≤ m < n+k} B_r(m)`. -/
+def intervalBrProduct (r n k : ℕ) : ℕ :=
+  (Finset.range k).prod (fun i => Br r (n + i))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 14]
```diff
@@ -0,0 +1,103 @@
...
+
+/--
+Discrete limsup-unbounded formulation for the variant in the additional text.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
Discrete limsup-unbounded formulation for the $B_r$ variant.
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 15]
```diff
@@ -0,0 +1,103 @@
...
+-/
+def brRatioUnbounded (r k : ℕ) : Prop :=
+  ∀ A : ℕ, ∃ n : ℕ, 1 ≤ n ∧ A * n ≤ intervalBrProduct r n k
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
  ∀ A : ℕ, ∃ n : ℕ, 1 ≤ n ∧ A * n ≤ intervalBProduct r n k
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 16]
```diff
@@ -0,0 +1,103 @@
...
+
+/--
+Variant question from the additional text: for fixed `r, k ≥ 2`, does there exist `ε > 0`
+with unbounded `limsup` behavior for `∏ B_r(m) / n^(1+ε)`?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
It would also be interesting to find upper and lower bounds for the analogous product with $B_r$
for $r \geq 2$. Is it true that, for every fixed $r, k \geq 2$ and $\epsilon > 0$,
$\limsup \frac{\prod_{n \leq m < n+k} B_r(m)}{n^{1+\epsilon}} \to \infty$?
```

**Review by mo271 — COMMENTED** [review]
Thanks!

Left some comments...

**Comment by SproutSeeds** [comment]
Refactored this around the general `B r n` and `intervalBProduct r n k`, then specialized the main statements through `B₂` / `r = 2` as suggested.

I kept the additional-text variant at `r ≥ 3` because that is the range I could support from the source page.

**Comment by SproutSeeds** [comment]
Took one more pass on `#2771`.

This follow-up keeps the review-alignment wording/notation cleanup and adds the explicit `k ≥ 3` lower-bound variant from the source page.

I kept the `B_r` variant at `r ≥ 3` rather than widening it to `r ≥ 2`, since the additional-text question on the source page is introduced specifically for `r ≥ 3`.

Happy to split the lower-bound addition out if you'd prefer to keep this PR narrower.

File: FormalConjectures/ErdosProblems/367.lean [hunk 17]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- Asymptotic formulation of an $n^{2+o(1)}$-type upper bound. -/
+def nearlyQuadraticBound (k : ℕ) : Prop :=
+  ∃ e : ℕ → ℝ,
+    e =o[atTop] (1 : ℕ → ℝ) ∧
+    ∀ᶠ n in atTop, (intervalBProduct 2 n k : ℝ) ≤ (n : ℝ) ^ (2 + e n)
+
+/-- The stronger variant $\ll_k n^2$. -/
+def quadraticBound (k : ℕ) : Prop :=
+  (fun n ↦ (intervalBProduct 2 n k : ℝ)) =O[atTop] fun n ↦ (n : ℝ) ^ (2 : ℝ)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/367.lean]: Can you inline all these definitions?

File: FormalConjectures/ErdosProblems/367.lean [hunk 18]
```diff
@@ -0,0 +1,106 @@
...
+
+/--
+$B_2(n) = n / n'$, where $n'$ is the product of all primes dividing $n$ exactly once,
+equivalently the $2$-full part of $n$.
+-/
+abbrev B₂ (n : ℕ) : ℕ := B 2 n
+
+/-- Product $\prod_{n \leq m < n+k} B_r(m)$. -/
+def intervalBProduct (r n k : ℕ) : ℕ :=
+  ∏ i ∈ Finset.range k, B r (n + i)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
  ∏ m ∈ .Ico n (n + k), B r m
```
to be closer to the informal description

File: FormalConjectures/ErdosProblems/367.lean [hunk 19]
```diff
@@ -0,0 +1,106 @@
...
+The problem asks about bounds on products of 2-full parts over short intervals.
+-/
+
+open Asymptotics Filter
+
+namespace Erdos367
+
+/-- `B r n` is the $r$-full part of $n$: the product of prime powers $p^a \| n$ with $a \geq r$. -/
+def B (r n : ℕ) : ℕ :=
+  ∏ i ∈ n.factorization.support.filter (r ≤ n.factorization ·), i ^ n.factorization i
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/367.lean]:
```suggestion
  ∏ i ∈ n.factorization.support with r ≤ n.factorization i, i ^ n.factorization i
```

File: FormalConjectures/ErdosProblems/367.lean [hunk 20]
```diff
@@ -0,0 +1,106 @@
...
+theorem erdos_367.variants.k_ge_three_lower :
+    ∃ c > (0 : ℝ), ∀ᶠ (n : ℕ) in atTop,
+      c * ((n : ℝ) ^ 2 * Real.log (n : ℝ)) ≤ (intervalBProduct 2 n 3 : ℝ) := by
+  sorry
+
+/--
+Discrete limsup-unbounded formulation for the $B_r$ variant.
+-/
+def brRatioUnbounded (r k : ℕ) : Prop :=
+  ∀ A : ℕ, ∃ n : ℕ, 1 ≤ n ∧ A * n ≤ intervalBProduct r n k
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/367.lean]: Please inline this as well

**Review by YaelDillies — COMMENTED** [review]
Don't forget to resolve comments you have satisfactorily addressed!

**Comment by mo271** [comment]
@SproutSeeds
are you still working on this/planning to respond here?

File: FormalConjectures/ErdosProblems/367.lean (hunk 11 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/367.lean:70]: Added this source result, using `∃ᶠ` rather than `∀ᶠ`: the source says “infinitely often”, while `∀ᶠ` would assert eventually always.

File: FormalConjectures/ErdosProblems/367.lean (hunk 10 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/367.lean]: I kept this at `3 ≤ r`: the current source introduces the analogous `B_r` product specifically for `r ≥ 3`. I also restored the source’s `ε`-scaled limsup in the statement. I’m leaving this thread open in case the repository prefers a deliberate normalization to `r ≥ 2`.

File: FormalConjectures/ErdosProblems/367.lean (hunk 16 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/367.lean]: I kept the docstring at `r ≥ 3` to match the current source, which introduces the analogous `B_r` question specifically in that range. The formal statement also restores the source’s `ε`-scaled limsup. I’m leaving this thread open in case the repository prefers a deliberate normalization to `r ≥ 2`.

**Comment by SproutSeeds** [comment]
Thanks for the ping — yes, I am still working on this. I have now rebased the branch onto current `main` and addressed the July review:

- inlined the one-use helper predicates while keeping `B` as the shared definition;
- adopted the requested `.Ico` product and factorization-support notation;
- migrated the problem import to `FormalConjecturesUtil`;
- corrected the `k ≥ 3` result to encode “infinitely often” and restored the source’s `ε`-scaled limsup statement for the higher-`B_r` question.

Exact results: one Lean file changed; the targeted module and the full repository both pass `lake --wfail build`.

I retained `r ≥ 3` because that is the range used by the current source page for the analogous `B_r` question. The branch is ready for another review pass.

File: FormalConjectures/ErdosProblems/367.lean [hunk 21]
```diff
@@ -0,0 +1,94 @@
...
+        ((∏ m ∈ .Ico n (n + k), B 2 m : ℕ) : ℝ) ≤ (n : ℝ) ^ (2 + e n) := by
+  sorry
+
+/--
+Or perhaps even $\prod_{n \leq m < n+k} B_2(m) \ll_k n^2$?
+-/
+@[category research open, AMS 11]
+theorem erdos_367.parts.ii : answer(sorry) ↔ ∀ k : ℕ, 1 ≤ k →
+    (fun n ↦ ((∏ m ∈ .Ico n (n + k), B 2 m : ℕ) : ℝ)) =O[atTop]
+      fun n ↦ (n : ℝ) ^ (2 : ℝ) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/367.lean]: Doesn't `k_ge_three_lower` disprove this?

Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/367.lean]: Yes. For `k = 3`, `k_ge_three_lower` gives a positive multiple of `n^2 log n` infinitely often, so the proposed `O(n^2)` bound cannot hold. I marked `parts.ii` as `research solved` with `answer(False)` in `7b68f3ba`. The targeted 8,052-job and full 9,012-job `lake --wfail` builds both pass.

**Comment by SproutSeeds** [comment]
Addressed the current logical-consistency review in `7b68f3ba`: `erdos_367.parts.ii` is now `research solved` with `answer(False)`, and its docstring records the source’s van Doorn attribution. The branch is rebased on current `main` (`64ba5d6b`); the targeted 8,052-job and mandatory full 9,012-job `lake --wfail` builds pass. The two intentionally open, outdated `r ≥ 2` source-range threads are unchanged. Ready for another look.

**Review by YaelDillies — APPROVED** [review]
Thanks, this looks good now
